US04870219
6 g of 6-[p-nitro-α-methylstyryl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene are dissolved in 200 ml of acetic acid and, after heating to 90°, treated within 2 minutes with 4.5 g of activated iron powder. Thereafter, 60 ml of water are added thereto and, after a further 30 minutes, the mixture is again treated with 60 ml of water. After stirring at 90° for 1 hour the reaction mixture is cooled, diluted with water and extracted with ether. The organic phase is washed with water, dilute soda solution and again with water. After drying with sodium sulphate the organic phase is evaporated and there is obtained a brown oil which is purified by filtration over silica gel (elution agent hexane/acetic acid 4:1). Recrystallization from hexane gives 4.5 g of p-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]aniline in colourless crystals, melting point 106°-108°.

reactant | 6-[p-nitro-α-methylstyryl]-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 6 g | [N+](=O)([O-])C1=CC=C(C=C(C)C=2C=C3C(CCC(C3=CC2)(C)C)(C)C)C=C1 | C23H27NO2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | iron | 4.5 g | [Fe] | Fe
solvent | water | 60 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | p-[2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]aniline | 4.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=CC1=CC=C(N)C=C1)C)C | C23H29N
